US04632930
4-(1-Methylethyl)-5-phenyl-1-(α-ethoxyethyl)imidazole
A mixture of 10.0 g (0.055 mole) of 4-(1-methylethyl)-5-phenyl-1H-imidazole, 7.61 g (0.06 mole) of dichloroacetic acid and 29.3 g (0.41 mole) of ethyl vinyl ether in 585 ml of toluene was heated at reflux for 3.5 hours. The reaction mixture was cooled to room temperature and was then stirred overnight with 170 ml of 25% aqueous sodium hydroxide. The organic layer was separated. The aqueous was extracted with ether (2×). The organic fractions were combined, washed with brine and dried over anhydrous potassium carbonate. Removal of the solvent under vacuum afforded 13.8 g of an oil, which was used in the subsequent reaction without purification.

reactant | 4-(1-methylethyl)-5-phenyl-1H-imidazole | 0.055 mole, 10.0 g | CC(C)C=1N=CNC1C1=CC=CC=C1 | C12H14N2
reactant | dichloroacetic acid | 0.06 mole, 7.61 g | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | ethyl vinyl ether | 0.41 mole, 29.3 g | C(=C)OCC | C4H8O
reactant | sodium hydroxide | 170 ml | [OH-].[Na+]
solvent | toluene | 585 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1-Methylethyl)-5-phenyl-1-(α-ethoxyethyl)imidazole | 13.8 g | CC(C)C=1N=CN(C1C1=CC=CC=C1)C(C)OCC | C16H22N2O
